US04384152
1000 g of the sym.-octahydrophenanthrene fraction of Example 1(b) and 250 ml methylene chloride were placed in a stirred flask and cooled to -10° C. Then 40 g of aluminum chloride powder were added in small quantities, while the temperature at times rose to -8° C. The mixture turning darkbrown was uniformly stirred. By crystallization of sym.-octahydroanthracene the addition of further 150 ml methylene chloride was required after about 4 hours. After an additional 2 hours 500 ml of 10 percent sodium hydroxide solution were added for decomposing the aluminum chloride, then the organic phase was separated and after removal of the solvent the organic phase was distilled in vacuum of 12 torr. There resulted in the sequence of the boiling points 5.5 g tetrahydronaphthalene (boiling point 82° C. at 12 torr), 958 g isomer mixture of a boiling point of 167°-168° C. at 12 torr comprising 97 percent sym.-octahydroanthracene and 3 percent sym.-octahydrophenanthrene, as well as a distillation residue of 34.8 g.

reactant | octahydrophenanthrene | C1CCCC2C3CCC=CC3=CC=C12 | C14H18
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | tetrahydronaphthalene | 5.5 g | C1CCCC2=CC=CC=C12 | C10H12
